Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],1.49388068645
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:10][H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-2.71581501042
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]1([H:12])[H:13],-1.46303063914
[C:1]#[C:2].[C:3][C:4][O:5]>>[C:1][C:2][C:3]#[C:4][O:5],-5.60876284094
[C:2]#[C:3][O:4][C:5]([H:6])[H:7].[O:1]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7],-6.9550122354
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.94173628555
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2].[O:3]=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],3.26444206892
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-0.976011363617
[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-1.27557917542
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],0.906276625391
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-4.58178283651
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.8592851431
[C:2][C:3]#[C:4][C:5]([O:6][H:7])[O:8][H:9].[H:1]>>[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[O:8][H:9],-4.82885504785
[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.1634623666
[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][O:2]/[C:3]=[C:4](/[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.55288334301
[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@:6]1([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12],0.540738114219
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1],2.74196929643
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:5].[O:1]=[C:2]([H:3])[C:4]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],1.87094566341
[C:1]#[C:2].[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-7.835585719039999
[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-4.829188022099999
[H:7].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:8][O:9][H:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10],-2.43915440259
[C:11]([H:12])[H:13].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.68193455916
[C:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]#[C:4][C:6]([H:7])[O:8][H:9].[H:5],2.86516220821
[C:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:6]([H:7])([H:8])[H:9].[O:3]=[C:4][H:5],-0.34189639463
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.45030857356
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5].[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],4.9082717471800015
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-8.01599091672
[H:1][C:2]#[C:3][C:4]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.76415713605
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:4](#[C:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3],3.10702821486
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:10][H:11].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-4.17472721601
